US20010056188A1
2) 2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-(1,2,2-trimethylpropylamino)-2-propenenitrile
2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-methylsulfanyl-2-propenenitrile (0.300 g, 0.6 mmol) was stirred in 2-amino-3,3-dimethylbutane (1 ml) for 48 h at 100° C. under nitrogen in a sealed flask. The reaction mixture was concentrated and the residue dissolved in dichloromethane, washed twice with 1N aqueous HCl, once with brine, and once with water. The organic phase was dried (sodium sulphate) and concentrated. The residue was trituated with ether to afford a white crystalline substance which was further purified by flash chromatography (SiO2) using heptane/ethyl acetate (1:1) to yield 85 mg (25%) of the title compound. Mp 80-82° C. 1H NMR (200 MHz, CDCl3): δ=0.90 (s, 9H), 1.02 (d, 3H), 3.02 (m, 1H), 7.27 (s, 2H), 7.47 (d, 2H), 7.51 (d,2H), 7.81 (d, 2H);

reactant | 2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-methylsulfanyl-2-propenenitrile | 0.6 mmol, 0.300 g | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(SC)NC1=CC(=CC=C1)C#N | C17H12ClN3O2S2
reactant | 2-amino-3,3-dimethylbutane | 1 ml | NC(C)C(C)(C)C | C6H15N
product | 2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-(1,2,2-trimethylpropylamino)-2-propenenitrile | 85 mg, 25% | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(NC(C(C)(C)C)C)NC1=CC(=CC=C1)C#N | C22H23ClN4O2S
